2118-03-17 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2118-3-17**] 02:26 AM
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2118-3-17**] 04:41 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-17**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 74 (74 - 83) bpm
   BP: 101/66(75) {90/61(69) - 149/87(102)} mmHg
   RR: 22 (22 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
             355 mL
   PO:
             TF:
   IVF:
   355 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    510 mL
   Urine:
   510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -155 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 38 cmH2O
   SpO2: 99%
   ABG: 7.36/52/60/28/2
   Ve: 10.8 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   12.7 g/dL
   156 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   37.7 %
   15.8 K/uL
        [image002.jpg]
                             [**2118-3-17**]  01:52 AM
                             [**2118-3-17**]  04:29 AM
                             [**2118-3-17**]  06:21 AM
   WBC
   15.8
   Hct
   37.7
   Plt
   177
   Cr
   0.9
   TropT
   0.04
   TCO2
   30
   31
   Glucose
   156
   Other labs: PT / PTT / INR:12.7/26.6/1.1, CK / CKMB /
   Troponin-T:61/4/0.04, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-18 07:05:00 Physician Resident Progress Note
Chief Complaint: 56F h/o schizoaffective disorder, DM2, HTN, asthma,
   admitted with respiratory distress (O2sat 60% on RA) and SBP 280,
   intubated on cefepime, azithromycin, vancomycin.
   24 Hour Events:
   - UOP 10cc/hr:  Received 2 x250cc boluses for UOP 10cc/hr, SBP 87;
   later 500cc x1.  Renal u/s demonstrated no hydronephrosis.  FeNa 0.1%
   --> ordered another 1L NS bolus
   - Bronch'd: LUL bronchial washings, RML BAL.  LUL appeared erythematous
   - Echo: Severity of MR, TR increased. Small secundum ASD now, no
   vegetation, no diastolic dysfunction.
   - [**3-17**] sputum: GNR
   - Vent: Attempted pressure support but RR 40s, minute ventilation
   decreased [**1-22**] shallow breathing, changed to A/C
   - Wheezing, autopeep: standing nebs written
   - A line placed
   - Psych recs: Hold long-term psych meds; use haloperidol 2mg TID PRN
   agitation
   - Social work consulted to work with roommate
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-17**] 07:42 PM
   Cefipime - [**2118-3-18**] 03:07 AM
   Azithromycin - [**2118-3-18**] 03:34 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-17**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2118-3-17**] 02:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 64 (60 - 76) bpm
   BP: 134/66(90) {105/51(70) - 150/86(327)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,505 mL
                                                                  1,498 mL
   PO:
             TF:
   IVF:
                                                                  2,465 mL
                                                                  1,498 mL
   Blood products:
   Total out:
                                                                    969 mL
                                                                    455 mL
   Urine:
                                                                    969 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,536 mL
                                                                  1,043 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 267
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/50/86.[**Numeric Identifier 143**]/23/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: NAD
   HEENT: Intubated, NCAT
   CV: RRR S1S2, no m/r/g
   Chest: Diffusely wheezy
   Abd: Soft NTND BS+
   Ext: No edema
   Labs / Radiology
   131 K/uL
   11.4 g/dL
   89 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   23 mg/dL
   106 mEq/L
   136 mEq/L
   31.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2118-3-17**]  01:52 AM
                             [**2118-3-17**]  04:29 AM
                             [**2118-3-17**]  06:21 AM
                             [**2118-3-17**]  11:28 AM
                             [**2118-3-17**]  02:52 PM
                             [**2118-3-17**]  07:09 PM
                             [**2118-3-18**]  03:13 AM
                             [**2118-3-18**]  03:21 AM
   WBC
   15.8
   10.9
   Hct
   37.7
   31.9
   Plt
   177
   131
   Cr
   0.9
   0.8
   TropT
   0.04
   0.01
   TCO2
   30
   31
   30
   29
   28
   Glucose
   156
   94
   89
   Other labs: PT / PTT / INR:12.7/26.6/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, admitted with
   respiratory distress (O2sat 60% on RA) and SBP 280, intubated on
   cefepime, azithromycin, vancomycin.
   # Hypoxic respiratory failure: DDx infectious etiology (viral with
   secondary bacterial infection?) given GNR in sputum; negative
   influenza.  Negative gram stain on RML BAL and LUL bronchial washings,
   pending cx.  CEs trended up to 0.04 with CK-MB 4, unlikely acute MI,
   possible demand ischemia given HTN.
   - Abx: vancomycin, cefepime, azithromycin
   - Follow blood, urine, BAL cultures
   - Asthma: Hyperreactivity likely worsened with infection.  Standing
   nebs.  Solumedrol IV for systemic steroids.
   - Vent mgt: Attempt to decrease FiO2; maximize asthma treatment; try
   RSBI in pm to evaluate possibility of transitioning from AC to pressure
   support.
   # Fever/leukocytosis: DDx likely [**1-22**] infectious etiology, probable lung
   source although pt has h/o IV drug use, past bacteremia, past epidural
   abscess.  Follow blood and urine cultures, continue vancomycin,
   azithromycin, cefepime.
   # Fluid status: Prerenal given FeNa 0.1%, continue IVF boluses as
   needed (renal u/s demonstrated no hydronephrosis).  Goal keep even.
   # Hypertension: DDx medication noncompliance (likely given pt's history
   of HTN med noncompliance), pain.  Continuing home regimen.
   # ASD: Will need to filter IV infusions to prevent air emboli.
   # DM2: STABLE.  Holding metformin, continuing insulin sliding scale.
   # Schizoaffective disorder:  STABLE.  Holding long-term psych meds per
   psych recs.  Haloperidol PRN for agitation.
   # FEN: Start TF with nutrition consult
   # Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition: Start TF; nutrition consult
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: Famotidine
   VAP:  HOB >30, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   This addendum clarifies the assessment and plan:
   # Hypertension: Pt
s home antiHTN regimen temporarily held given low
   SBPs.  Restart home regimen with gradual introduction of [**Doctor Last Name **] for
   afterload reduction given worsened MR.  Consider restarting ACE-I
   first.
   ------ Protected Section Addendum Entered By:[**Name (NI) 373**] [**Name (NI) 374**]
   on:[**2118-3-18**] 11:58 ------

2118-03-18 09:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2118-3-17**] 03:43 PM
 ARTERIAL LINE - START [**2118-3-17**] 06:05 PM
   Echo showed preserved LVEF, 2+ MR, small ASD.
   Renal ultrasound
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-18**] 03:07 AM
   Azithromycin - [**2118-3-18**] 03:34 AM
   Vancomycin - [**2118-3-18**] 08:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-17**] 02:04 PM
   Other medications:
   H2B, vanco, azithro, CHG, propofol, cefepime, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-18**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 65 (60 - 76) bpm
   BP: 128/64(87) {105/51(70) - 150/86(327)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,505 mL
                                                                  1,802 mL
   PO:
             TF:
   IVF:
                                                                  2,465 mL
                                                                  1,802 mL
   Blood products:
   Total out:
                                                                    969 mL
                                                                    585 mL
   Urine:
                                                                    969 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,536 mL
                                                                  1,217 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 267
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/50/86.[**Numeric Identifier 143**]/23/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Mostly obscured by breath
   sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scant, Wheezes :
   diffuse; prolonged exp phase)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   131 K/uL
   89 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   23 mg/dL
   106 mEq/L
   136 mEq/L
   31.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2118-3-17**]  01:52 AM
                             [**2118-3-17**]  04:29 AM
                             [**2118-3-17**]  06:21 AM
                             [**2118-3-17**]  11:28 AM
                             [**2118-3-17**]  02:52 PM
                             [**2118-3-17**]  07:09 PM
                             [**2118-3-18**]  03:13 AM
                             [**2118-3-18**]  03:21 AM
   WBC
   15.8
   10.9
   Hct
   37.7
   31.9
   Plt
   177
   131
   Cr
   0.9
   0.8
   TropT
   0.04
   0.01
   TCO2
   30
   31
   30
   29
   28
   Glucose
   156
   94
   89
   Other labs: PT / PTT / INR:12.7/26.6/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR is stable or slightly improved.
   Microbiology: 2+ GNR on first sputum gram stain, but not seen on
   subsequent ones.  Otherwise NGSF or negative.  Particularly notable for
   negative influenza and AFB smears.
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure
   She is remarkably wheezy today.  In addition, bronch from yesterday
   showed both secretions and airway irritation, particularly in the left
   upper lobe.  I suspect she has both an infectious process and
   exacerbation of pre-existing reactive airways (smoker and hx of
asthma
   -          She breathes rapid/shallow when support lowered today
 not
   ready for extubation
   -          add steroids today and treat as if for asthma/COPD
   exacerbation
   -          continue bronchodilators
   -          continue present antibiotics awaiting cultures.  Follow AFB
   with interest and if (+) then consider holding steroids
   -          run even today
   Hypertension
   -          keep generous holding parameters
   -          if control needed, use a drug that reduces afterload given
   mitral regurgitation
   Anemia
   -          keep generous holding parameters
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use prns as needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ICU Care
   Nutrition: start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes

2118-03-19 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   steroids started for pneumonitis solumedrol tid
   tube feeds started
   psych: can hold off on long acting d2 blocker, haldol prn
   diazapam x 1 given, pt responded since she "wanted a drink"
   hct stable
   sputum culture 2+ GNR
   lasix 20 mg iv x 1
   if BP > 170 can start lisinopril for afterload reduction
   vent-> press support w/ 40% fio2,
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-18**] 09:00 PM
   Azithromycin - [**2118-3-19**] 04:00 AM
   Cefipime - [**2118-3-19**] 04:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-18**] 08:00 PM
   Famotidine (Pepcid) - [**2118-3-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 73 (57 - 83) bpm
   BP: 132/65(88) {107/60(81) - 164/85(113)} mmHg
   RR: 28 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,967 mL
                                                                    640 mL
   PO:
             TF:
                                                                     68 mL
                                                                    123 mL
   IVF:
                                                                  2,739 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    380 mL
   Urine:
                                                                  1,610 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    260 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 18 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/46/80.[**Numeric Identifier 176**]/25/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed, responsive to
   sound
   Labs / Radiology
   169 K/uL
   12.4 g/dL
   239 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   24 mg/dL
   106 mEq/L
   142 mEq/L
   36.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2118-3-17**]  11:28 AM
                             [**2118-3-17**]  02:52 PM
                             [**2118-3-17**]  07:09 PM
                             [**2118-3-18**]  03:13 AM
                             [**2118-3-18**]  03:21 AM
                             [**2118-3-18**]  01:36 PM
                             [**2118-3-18**]  10:27 PM
                             [**2118-3-19**]  04:02 AM
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
   WBC
   10.9
   9.2
   7.8
   Hct
   31.9
   33.4
   36.0
   Plt
   131
   129
   169
   Cr
   0.8
   0.7
   TropT
   0.01
   TCO2
   30
   29
   28
   29
   29
   28
   Glucose
   94
   89
   239
   Other labs: PT / PTT / INR:12.7/26.6/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: [**2118-3-17**] kidney u/s
   FINDINGS:  Incredibly limited study due to portable nature, patient
   inability
   to cooperate, and technical limitations of the ICU space with multiple
   other
   machines.  There is no evidence of hydronephrosis.  The bladder was not
   visualized.  A Foley catheter was noted to be in place.
   Microbiology: DFA negative
   RSV viral swab prelim negative
   ACid fast stain  negative x2
   urine legionalla negative
   BAL: pcp neg, culture neg
   blood cultures negative
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, admitted with
   respiratory distress (O2sat 60% on RA) and SBP 280, intubated on
   cefepime, azithromycin, vancomycin
   Hypoxic respiratory failure: DDx infectious etiology (viral with
   secondary bacterial infection?) but cultures negative; negative
   influenza.  Negative gram stain on RML BAL and LUL bronchial washings,
   but cultures negative.  CEs trended up to 0.04 with CK-MB 4, unlikely
   acute MI, likely demand ischemia given HTN. Also likely is COPD/Asthma
   exacerbation
   - Continue cefepime  day [**3-28**] (day 1: [**3-16**]), azithromycin day [**2-25**] (Day
   1: [**3-17**])
   - Discontinue vancomycin
   - urine and BAL cultures negative
   - AFB negative on BAL, TB ruled out.
   - Asthma: Hyperreactivity likely worsened with infection.  Standing
   nebs.  Continue Solumedrol IV for systemic steroids. (day 1: [**3-18**]),
   today is day 2.
   - Vent mgt: patient with high rsbi this AM. Currently on PS 12/5 40%,
   will wean slowly today
   Fever/leukocytosis: afebrile now. DDx likely [**1-22**] infectious etiology,
   probable lung source although pt has h/o IV drug use, past bacteremia,
   past epidural abscess.  Follow blood cx (others negative) continue
   azithromycin, cefepime (dc vanco)
   - patient has femoral line, continue for now, but watch closely
   Fluid status: Prerenal given FeNa 0.1%, continue IVF boluses as needed
   (renal u/s demonstrated no hydronephrosis).  Goal keep even.
   Hypertension: DDx medication noncompliance (likely given pt's history
   of HTN med noncompliance), pain.  Home meds include Atenolol 75mg,
   hydroxhlorothiazide 25mg daily and lisinopril daily
   - Metoprolol 12.5 [**Hospital1 7**]
   - captopril 6.25 TID
   ASD: Will need to filter IV infusions to prevent air emboli.
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale.
   Schizoaffective disorder:  stable.
   - appreciate psych recs, holding long-term psych meds
   - Haloperidol PRN for agitation.
   - patient may have pain, since she is at opiates at home
   FEN: Continue tube feeds per nutrition
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-19 11:38:00 Physician Attending Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   Steroids started yesterday for asthma/COPD exacerbation
   Sputum 2+ GNR but BAL no growth to date, PCP and AFB negative
   Vent weaned to PSV but when try to drop PS to [**4-25**] for RSBI acutely
   drops TV and inc resp rate. Still wheezing.
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-19**] 04:00 AM
   Azithromycin - [**2118-3-19**] 04:00 AM
   Vancomycin - [**2118-3-19**] 08:32 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-18**] 08:00 PM
   Famotidine (Pepcid) - [**2118-3-18**] 08:00 PM
   Fentanyl - [**2118-3-19**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-19**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 73 (57 - 83) bpm
   BP: 149/73(99) {107/60(81) - 165/85(113)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,967 mL
                                                                  1,035 mL
   PO:
             TF:
                                                                     68 mL
                                                                    123 mL
   IVF:
                                                                  2,739 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    575 mL
   Urine:
                                                                  1,610 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    460 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 14 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/46/80.[**Numeric Identifier 176**]/25/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Lying in bed, on ventilator, startles to voice then falls asleeo again
   CV: RR
   Chest: diffuse end exop wheezes
   Abd: obese soft Nt +BS
   Ext: 1+ edema
   Labs / Radiology
   12.4 g/dL
   169 K/uL
   239 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   24 mg/dL
   106 mEq/L
   142 mEq/L
   36.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2118-3-17**]  11:28 AM
                             [**2118-3-17**]  02:52 PM
                             [**2118-3-17**]  07:09 PM
                             [**2118-3-18**]  03:13 AM
                             [**2118-3-18**]  03:21 AM
                             [**2118-3-18**]  01:36 PM
                             [**2118-3-18**]  10:27 PM
                             [**2118-3-19**]  04:02 AM
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
   WBC
   10.9
   9.2
   7.8
   Hct
   31.9
   33.4
   36.0
   Plt
   131
   129
   169
   Cr
   0.8
   0.7
   TropT
   0.01
   TCO2
   30
   29
   28
   29
   29
   28
   Glucose
   94
   89
   239
   Other labs: PT / PTT / INR:12.7/26.6/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR
   Microbiology: Neg DFA for flu
   AFB neg x 3
   PCP neg
   Urine Leg neg
   BAL neg to date
   UA [**2109**] GNR
   Assessment and Plan
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure : likely bronchitis, and exacerbation of
   obstructive lung disease.
                   She remains intermittently bronchospastic
                   She breathes rapid/shallow when support lowered today
   not ready for extubation
   -          added steroids yesterday and treat as if for asthma/COPD
   exacerbation
   -          continue bronchodilators
   -          d/c vanco, continue Cef/Azith x 7 day course.
   -      AFB neg thus far, follow up cx with interest and if (+) then
   consider holding steroids
   -          run even today
   Hypertension
   -          keep generous holding parameters
   -          if control needed, use a drug that reduces afterload given
   mitral regurgitation
   Anemia
   -          keep generous holding parameters
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Halsol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ETOH Hx: put on CIWA and monitor fow withdrawl, Rx with Valium
   ICU Care
   Nutrition: TF
   Glycemic Control:  SSRI
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: pepcid
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 40

2118-03-20 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per ID, AFB negative on BAL is conclusive
   - DFA negative
   - added metoprolol 25 [**Hospital1 7**]
   - made sliding scale a little more aggressive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-19**] 08:32 AM
   Cefipime - [**2118-3-20**] 04:00 AM
   Azithromycin - [**2118-3-20**] 05:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2118-3-19**] 02:50 PM
   Famotidine (Pepcid) - [**2118-3-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 76 (55 - 82) bpm
   BP: 146/69(98) {132/64(88) - 188/96(135)} mmHg
   RR: 32 (15 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,303 mL
                                                                    948 mL
   PO:
             TF:
                                                                    608 mL
                                                                    305 mL
   IVF:
                                                                  1,515 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,011 mL
                                                                    270 mL
   Urine:
                                                                  1,011 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,292 mL
                                                                    678 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 216
   SpO2: 97%
   ABG: 7.41/42/102/24/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: normal s1s2, no g/r/m
   Peripheral Vascular: All pulses palpable
   Respiratory / Chest: no longer wheezing but tachypneic
   Abdominal: Soft, Non-tender, Non Distended
   Extremities: no edema
   Labs / Radiology
   174 K/uL
   11.8 g/dL
   251 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.5 mEq/L
   34 mg/dL
   110 mEq/L
   144 mEq/L
   34.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2118-3-18**]  03:21 AM
                             [**2118-3-18**]  01:36 PM
                             [**2118-3-18**]  10:27 PM
                             [**2118-3-19**]  04:02 AM
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
   WBC
   9.2
   7.8
   9.2
   Hct
   33.4
   36.0
   34.0
   Plt
   129
   169
   174
   Cr
   0.7
   0.6
   TCO2
   28
   29
   29
   28
   28
   27
   28
   Glucose
   89
   239
   251
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Microbiology: no new culture data
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, admitted with
   respiratory distress (O2sat 60% on RA) and SBP 280, intubated on
   cefepime, azithromycin, vancomycin
   Hypoxic respiratory failure: DDx infectious etiology (viral with
   secondary bacterial infection?) but cultures negative; negative
   influenza.  Negative gram stain on RML BAL and LUL bronchial washings,
   but cultures negative.  CEs trended up to 0.04 with CK-MB 4, unlikely
   acute MI, likely demand ischemia given HTN. Also likely is COPD/Asthma
   exacerbation
   - Continue cefepime  day [**4-27**] (day 1: [**3-16**]), azithromycin day [**3-28**] (Day
   1: [**3-17**])
   - urine and BAL cultures negative,  AFB negative on BAL, TB ruled out.
   - Asthma: Hyperreactivity likely worsened with infection.  Standing
   nebs.  Continue Solumedrol IV for systemic steroids, can likely
   decrease dose to daily as not wheezing as much anymore. (day 1: [**3-18**]),
   today is day 3.
   - Vent mgt: patient with rapid shallow breathing.  patient with high
   rsbi this AM. Currently on PS 12/5 40%, will wean slowly today, tried
   [**9-25**] during rounds, but volumes went down
   - change sedation to fentanyl and versed, this may help tachypnea. If
   this doesn
t work, may try increasing inspiratory pressure
   Fever/leukocytosis: afebrile now. DDx likely [**1-22**] infectious etiology,
   probable lung source although pt has h/o IV drug use, past bacteremia,
   past epidural abscess.  Follow blood cx (others negative) continue
   azithromycin, cefepime (dc vanco)
   - patient has femoral line, continue for now, but watch closely
   Fluid status: Prerenal given FeNa 0.1%, continue IVF boluses as needed
   (renal u/s demonstrated no hydronephrosis).  Goal keep even.
   Hypertension: DDx medication noncompliance (likely given pt's history
   of HTN med noncompliance), pain.  Home meds include Atenolol 75mg,
   hydroxhlorothiazide 25mg daily and lisinopril daily
   - Metoprolol 25 [**Hospital1 7**]
   - captopril 6.25 TID
 increase to 12.5mg TID today
   ASD: Will need to filter IV infusions to prevent air emboli.
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale.
   Schizoaffective disorder:  stable.
   - appreciate psych recs, holding long-term psych meds
   - Haloperidol PRN for agitation.
   - patient may have pain, since she is at opiates at home
   FEN: Continue tube feeds per nutrition
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-19**] 08:06 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-20 08:39:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   AFB negative
   PSV to [**11-25**]
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-19**] 08:32 AM
   Cefipime - [**2118-3-20**] 04:00 AM
   Azithromycin - [**2118-3-20**] 05:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2118-3-19**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-20**] 08:00 AM
   Famotidine (Pepcid) - [**2118-3-20**] 08:00 AM
   Other medications:
   MVI, Lopressor 25 [**Hospital1 7**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-20**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 75 (55 - 82) bpm
   BP: 171/86(119) {132/64(88) - 188/96(135)} mmHg
   RR: 38 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,303 mL
                                                                  1,127 mL
   PO:
             TF:
                                                                    608 mL
                                                                    383 mL
   IVF:
                                                                  1,515 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,011 mL
                                                                    340 mL
   Urine:
                                                                  1,011 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,292 mL
                                                                    787 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 216
   SpO2: 99%
   ABG: 7.41/42/102/24/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear but rapid and slahhow
   Skin:  Not assessed
   Neurologic: Responds to tactile but not voice
   Labs / Radiology
   11.8 g/dL
   174 K/uL
   251 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.5 mEq/L
   34 mg/dL
   110 mEq/L
   144 mEq/L
   34.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2118-3-18**]  03:21 AM
                             [**2118-3-18**]  01:36 PM
                             [**2118-3-18**]  10:27 PM
                             [**2118-3-19**]  04:02 AM
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
   WBC
   9.2
   7.8
   9.2
   Hct
   33.4
   36.0
   34.0
   Plt
   129
   169
   174
   Cr
   0.7
   0.6
   TCO2
   28
   29
   29
   28
   28
   27
   28
   Glucose
   89
   239
   251
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:61/4/0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure : likely bronchitis, and exacerbation of
   obstructive lung disease.
                -   She remains intermittently bronchospastic
                 -  She breathes rapid/shallow when support lowered today
 not ready for extubation. Will try to increase PSV and see if that
   decreases resp rate. Check NIF. Adjust sedation as withdrawl.
   -          added steroids yesterday and treat as if for asthma/COPD
   exacerbation
   -          continue bronchodilators
   -          d/c vanco, continue Cef/Azith x 7 day course.
   -      AFB neg thus far, D/C follow up cx with interest and if (+) then
   consider holding steroids
   Hypertension
   -          keep generous holding parameters
   -          if control needed, use a drug that reduces afterload given
   mitral regurgitation
   Anemia
   -          keep generous holding parameters
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Halsol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ETOH Hx: put on CIWA and monitor fow withdrawl, now changing to Fent
   and Versed
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-20**] 07:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Prevacid
   VAP: HOB and chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40
   Patient is critically ill

2118-03-21 06:52:00 Physician Resident Progress Note
Chief Complaint: 56F h/o schizoaffective disorder, DM2, HTN, asthma,
   intubated with respiratory distress (O2sat 60% on RA) either [**1-22**]
   pulmonary infection (on cefepime, azithromycin), asthma exacerbation,
   fluid overload.
   24 Hour Events:
   - Decreased methylprednisolone to 60mg IV daily from 125mg Q8H to start
   steroid
   - Hypertensive to SBP 200: Increased metoprolol to 25 TID, increased
   captopril to 12.5mg TID, added Isordil 10mg TID.  Also gave furosemide
   10mg IV x1.
   - Afib--> EKG no ischemic changes --> BB  --> d/c'd BB in favor of
   diltiazem gtt --> amio gtt added on
 converted to NSR
   - Vent goal: Change FiO2 to 30 from 40
   - Urine cx: [**2109**] GNR; urine cx resent
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-19**] 08:32 AM
   Cefipime - [**2118-3-20**] 03:41 PM
   Azithromycin - [**2118-3-21**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Diltiazem - 15 mg/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-20**] 08:00 AM
   Furosemide (Lasix) - [**2118-3-20**] 12:15 PM
   Metoprolol - [**2118-3-20**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-21**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 126 (56 - 184) bpm
   BP: 105/62(75) {105/62(75) - 195/95(133)} mmHg
   RR: 27 (15 - 38) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  2,365 mL
                                                                    798 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    274 mL
   IVF:
                                                                  1,101 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    260 mL
   Urine:
                                                                  1,650 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    715 mL
                                                                    538 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 141
   SpO2: 96%
   ABG: 7.40/46/90.[**Numeric Identifier 126**]/29/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: NAD; when pressure support decreases, increased work of breathing
   and appears stressed
   HEENT: Intubated, NCAT
   CV: RRR, S1S2, no m/r/g
   Chest: Diffuse coarse breath sounds bilaterally
   Abd: Soft, NTND, BS+
   Ext: Trace BLE edema
   Labs / Radiology
   165 K/uL
   11.3 g/dL
   191 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   38 mg/dL
   110 mEq/L
   144 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
   WBC
   9.2
   7.7
   Hct
   34.0
   32.1
   Plt
   174
   165
   Cr
   0.6
   0.7
   TropT
   <0.01
   TCO2
   29
   28
   28
   27
   28
   32
   30
   Glucose
   251
   99
   191
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:174/3/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: [**3-21**] CXR pending
   Microbiology: [**3-21**] urine cx pending
   [**3-16**] urine cx ~[**2109**] GNR
   [**2038-3-15**] blood cx pending
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   # AF with RVR: New onset.  On diltiazem gtt, amiodarone gtt to achieve
   RVR control; now in sinus, but will need to monitor for
   ?anticoagulation.
   -          Etiology of AF: Opiate/benzo withdrawal (had been on solely
   propofol, now on fentanyl/midazolam); infection; fluid shifts
 Likely
   recent fluid overload, as has been positive for last several days.
   -          CHADS2 score low, less than 48h Afib, no need to
   anticoagulate now
   -          Convert amiodarone to PO, d/c diltiazem
   # Hypoxic respiratory failure: Initial DDx pulmonary infection v asthma
   exacerbation v fluid overload (elevated BNP).
   - ?Infection: Influenza, sputum, bronchoscopy cultures negative.
   Continuing abx to complete cefepime x7 days (day 1: [**3-16**]), azithromycin
   x5 days (day 1: [**3-17**])
   - ?Fluid overload: Pt goal positive, furosemide IV to reach negative 1L
   fluid balance.
   - ?Asthma: Standing nebs, convert to prednisone 60mg PO to start
   prednisone taper (d/c methylprednisolone)
   - Vent mgt: On PS 12/5, RSBI improved to 141.  Goal today attempt [**9-25**]
   *after diuresis* - treat underlying causes of respiratory failure.
   # Hypertension: DDx medication noncompliance (likely given pt's history
   of HTN med noncompliance), pain, ?opiate/benzo w/drawal.  (Home regimen
   includes atenolol 75mg, hydroxhlorothiazide 25mg daily and lisinopril
   daily.)
   - Captopril 25 mg PO TID, isosorbide dinitrate 10 mg PO TID
   # Fever/leukocytosis: Afebrile. DDx likely [**1-22**] pulmonary infection.
   All cx negative, with urine cx on admission growing ~[**2109**] GNR.
   - Continue azithromycin, cefepime (vanc d/c'd)
   - Femoral line: [**Month (only) 51**] need to d/c as provides source of future infection
   # Fluid status: IVF boluses as needed, goal even fluid balance.
   # ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   # DM2: STABLE.  Holding metformin, continuing insulin sliding scale.
   # Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   # FEN: TF
   # Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-21**] 05:10 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-21 10:02:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   went into Afib with RVR to 180 and Rx with Iv Dilt then loaded with IV
   Amio gtts
   24 Hour Events:
 URINE CULTURE - At [**2118-3-21**] 01:58 AM
 URINE CULTURE - At [**2118-3-21**] 04:38 AM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-19**] 08:32 AM
   Cefipime - [**2118-3-20**] 03:41 PM
   Azithromycin - [**2118-3-21**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Amiodarone - 1 mg/min
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-3-20**] 12:15 PM
   Metoprolol - [**2118-3-20**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-21**] 08:30 AM
   Famotidine (Pepcid) - [**2118-3-21**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2118-3-21**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 71 (56 - 184) bpm
   BP: 128/65(86) {105/55(73) - 195/95(133)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,365 mL
                                                                  1,272 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    446 mL
   IVF:
                                                                  1,101 mL
                                                                    776 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    420 mL
   Urine:
                                                                  1,650 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    715 mL
                                                                    852 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 141
   SpO2: 94%
   ABG: 7.40/46/90.[**Numeric Identifier 126**]/29/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Lying in bed, on ventilator, startles to voice then falls asleep again
   CV: RR
   Chest: diffuse end exp wheezes
   Abd: obese soft Nt +BS
   Ext: 1+ edema
   Labs / Radiology
   11.3 g/dL
   165 K/uL
   191 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   38 mg/dL
   110 mEq/L
   144 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2118-3-19**]  04:21 AM
                             [**2118-3-19**]  06:16 AM
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
   WBC
   9.2
   7.7
   Hct
   34.0
   32.1
   Plt
   174
   165
   Cr
   0.6
   0.7
   TropT
   <0.01
   TCO2
   29
   28
   28
   27
   28
   32
   30
   Glucose
   251
   99
   191
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:174/3/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure : likely bronchitis, and exacerbation of
   obstructive lung disease.
                -   She remains bronchospastic
                -  She breathes rapid/shallow when support lowered today
   still seemingly not ready for extubation.
          -        Need to get her 500 to 1000 cc negative to see if
   volume overload is adding to resp distress
   -          added steroids 3 days ago, treat as if for asthma/COPD
   exacerbation
   -          continue bronchodilators
   -          d/c vanco, continue Cef/Azith x 7 day course.
   -          AFB neg thus far, D/C follow up cx with interest and if (+)
   then consider holding steroids
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR. D/C Dilt drip
 finish Amio load, convert to po.
   [**Month (only) 51**] not need long term.
   Hypertension
   -          keep generous holding parameters
   -          captopril
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ETOH Hx: put on CIWA, now changing to Fent and Versed
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-21**] 05:10 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-17**] 02:26 AM
   Arterial Line - [**2118-3-17**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  unable to contact any confirmed family members
   clarify man who calls self
husband/boyfriend
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-03-22 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2118-3-21**] 08:31 PM
 ARTERIAL LINE - STOP [**2118-3-22**] 02:02 AM
 ARTERIAL LINE - START [**2118-3-22**] 02:30 AM
   10 iv lasix x 3 to get i/o goal
   changed to po steroids
   pulled fem line
   picc line? placed, IR ordered
   10 bt vt run
   insulin-> 10 glargine started qhs, increased sliding scale
   PS to [**9-25**]
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-19**] 08:32 AM
   Azithromycin - [**2118-3-21**] 04:00 AM
   Cefipime - [**2118-3-22**] 04:30 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-21**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2118-3-21**] 02:30 PM
   Furosemide (Lasix) - [**2118-3-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-22**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 64 (61 - 81) bpm
   BP: 198/95(120) {130/63(78) - 198/95(120)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,633 mL
                                                                    724 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    336 mL
   IVF:
                                                                  1,462 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  1,050 mL
   Urine:
                                                                  2,840 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -207 mL
                                                                   -326 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   SpO2: 96%
   ABG: 7.43/58/95.[**Numeric Identifier 218**]/34/11
   Ve: 7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all pulses palbable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   11.5 g/dL
   134 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   32.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
   WBC
   9.2
   7.7
   5.6
   Hct
   34.0
   32.1
   32.9
   Plt
   174
   165
   163
   Cr
   0.6
   0.7
   0.8
   TropT
   <0.01
   TCO2
   28
   27
   28
   32
   30
   40
   Glucose
   [**Telephone/Fax (2) 391**]4
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:174/3/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: no new imagines
   Microbiology: urine cultures from [**3-21**] pending
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Fever/leukocytosis: Patient spiked fever of 101 at 8am. Most likely
   causes are VAP or line infection. Femoral line dc/ed yesterday. All
   cultures prior to today have been negative.
   - will culture sputum, urine, f/u chest xray, stool
   - Add vancomycin given patient spiked fever while on cefepime
   - continue cefepime (day 1: [**3-16**]) today day 7, planned intially for 7
   day course, leave for now considering new fever
   Hypertension: this has been worsening while has been here despite
   addition of medications. Considering essential HTN, cardiac event given
   diaphoresis, withdrawal from opiod unlikely to becausing this.
   Secondary causes should also be considered given that it is refractory
   to medications, renal artery stenosis, urine metanephrines (Home
   regimen includes atenolol 75mg, hydroxhlorothiazide 25mg daily and
   lisinopril daily.)
   - increase captopril to 37.5 TID, isosorbide mononitrate to 30mg [**Hospital1 7**],
   and add hydrochlorothiazide
   - consider renal artery ultrasound to r/o stenosis when better study is
   possible (off vent?)
   - urine for metanephrines
   Hypoxic respiratory failure: tolerating PS 10/5 at 40%. Likely cause of
   initial failure asthma/COPD exacerbation or fluid overload  (elevated
   BNP)
   - Infection: Influenza, sputum, bronchoscopy cultures negative.
   Continuing cefepime for now (day 1: [**3-16**]), complete 5 day course of
   azithromycin.
   - new fever, started vanco today 1gm q12h. (day 1 [**2118-3-22**])
   - Fluid overload: goal negative 500cc, 20mg IV lasix this AM
   - Asthma: Standing nebs, continue prednisone 60mg PO for now
   - Vent mgt: On PSV 10/5 40%, keep on this for now given new fever and
   htn
   Agitation: patient agitated and diaphoretic on versed and fentanyl.
   Unclear why, opiod/etoh/benzo withdrawals unlikely to be causing this
   - haldol PRN
   AF with RVR: New onset this week, now in sinus. initially n diltiazem
   gtt, this has been discontinued, s/p amiodarone gtt .
   - Etiology of AF: Opiate/benzo withdrawal (had been on solely propofol,
   now on fentanyl/midazolam); infection; fluid shifts
 Likely recent
   fluid overload, as has been positive for last several days.
   -          CHADS2 score low, less than 48h Afib, no need to
   anticoagulate now
   -          Convert amiodarone to PO, d/c diltiazem
   # Fluid status: IVF boluses as needed, goal even fluid balance.
   # ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   # DM2: STABLE.  Holding metformin, continuing insulin sliding scale.
   # Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   # FEN: TF
   # Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-22**] 02:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-22 10:25:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diuresis attempted but only 300 cc
   Slight vent wean 7.43/58/95 on [**9-25**] and RSBI this AM 40
   24 Hour Events:
 MULTI LUMEN - STOP [**2118-3-21**] 08:31 PM
 ARTERIAL LINE - STOP [**2118-3-22**] 02:02 AM
 ARTERIAL LINE - START [**2118-3-22**] 02:30 AM
   History obtained from Medical records
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2118-3-21**] 04:00 AM
   Cefipime - [**2118-3-22**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-21**] 02:30 PM
   Furosemide (Lasix) - [**2118-3-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-22**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 76 (61 - 79) bpm
   BP: 195/101(124) {130/63(78) - 198/101(124)} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,633 mL
                                                                    846 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    367 mL
   IVF:
                                                                  1,462 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  1,660 mL
   Urine:
                                                                  2,840 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -207 mL
                                                                   -814 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   SpO2: 95%
   ABG: 7.43/58/95.[**Numeric Identifier 218**]/34/11
   Ve: 8.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Lying in bed, on ventilator, currently hypertensive to 210/100 and
   diaphretic
   CV: RR
   Chest: fair air movement, faint end exp wheezes
   Abd: obese soft Nt +BS
   Ext: 1+ edema
   Labs / Radiology
   11.5 g/dL
   163 K/uL
   134 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   32.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2118-3-19**]  04:30 PM
                             [**2118-3-19**]  06:22 PM
                             [**2118-3-20**]  04:24 AM
                             [**2118-3-20**]  04:37 AM
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
   WBC
   9.2
   7.7
   5.6
   Hct
   34.0
   32.1
   32.9
   Plt
   174
   165
   163
   Cr
   0.6
   0.7
   0.8
   TropT
   <0.01
   TCO2
   28
   27
   28
   32
   30
   40
   Glucose
   [**Telephone/Fax (2) 391**]4
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:174/3/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Microbiology: UA -
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure : likely bronchitis, and exacerbation of
   obstructive lung disease.
          -        Actually improved this AM with less wheezing, and OK on
   [**9-25**], had RSBI of 40- would even consider SBT/extubation but dependent
   on  better  BP and temp control
   -           continue bronchodilators, Prednisone
   -          Cefipime [**5-28**]
   New fever this AM: 6 days into ICU course Primary DDX VAP and line
   fection. Check CXR, panculture. Did have fem line in which was d/c
   yesterday. Blood and urine cultures. Add vanco empirically.
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR
   Hypertension:  increase ACEI, add back her HCTZ, makre sure agitation
   is not impacting and have also considered withdrawl
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ETOH Hx: put on CIWA, now Fent and Versed
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-22**] 10:12 AM 45 mL/hour
   Glycemic Control:  SSRI
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2118-03-23 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2118-3-22**] 01:24 PM
 BLOOD CULTURED - At [**2118-3-22**] 01:25 PM
 SPUTUM CULTURE - At [**2118-3-22**] 01:25 PM
 URINE CULTURE - At [**2118-3-22**] 01:25 PM
   - CXR unchanged
   - started on Vanco, continued on cefepime
   - PS 10/5 to [**4-25**] this AM. 40%
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2118-3-21**] 04:00 AM
   Vancomycin - [**2118-3-23**] 12:00 AM
   Cefipime - [**2118-3-23**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-22**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 63 (55 - 81) bpm
   BP: 194/86(120) {152/68(91) - 217/102(146)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,363 mL
                                                                    982 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    347 mL
   IVF:
                                                                  1,078 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                    322 mL
   Urine:
                                                                  3,555 mL
                                                                    322 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,192 mL
                                                                    660 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53,476
   SpO2: 94%
   ABG: ///36/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   11.2 g/dL
   99 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.7 mEq/L
   36 mg/dL
   104 mEq/L
   146 mEq/L
   32.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2118-3-20**]  04:37 AM
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
                             [**2118-3-22**]  12:00 PM
                             [**2118-3-22**]  04:41 PM
                             [**2118-3-23**]  03:45 AM
   WBC
   7.7
   5.6
   7.0
   Hct
   32.1
   32.9
   32.1
   Plt
   165
   163
   185
   Cr
   0.7
   0.8
   0.8
   0.8
   TropT
   <0.01
   TCO2
   28
   32
   30
   40
   Glucose
   99
   191
   134
   350
   160
   99
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: [**2118-3-22**]: Blood cx x2 pending
   urine culture pending, ua neg
   sputum: budding yeast 1+
   [**3-21**] urine cx x2 neg
   all still
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Hypoxic respiratory failure: tolerating PS 5/5 at 40%. Likely cause of
   initial failure asthma/COPD exacerbation or fluid overload  (elevated
   BNP). All cultures negative
   - Plan today to change sedation to standing rather then continuous drip
   as a bridge to extubation. Start haldol 1mg TID, valium 5mg TID and
   wean fentanyl and midazolam.
   - Hold tube feeds
   - check rsbi when more awake
   - Continuing cefepime for now (day 1: [**3-16**]), s/p 5 day course of
   azithromycin.
   - if cultures do not grow anythign for 48 hours, plan to discontinue
   cefepime and possibly vancomycin
   - new fever, started vanco today 1gm q12h. (day 1 [**2118-3-22**])
   - Fluid overload: goal negative 500cc, 20mg IV lasix this AM
   - Asthma: Standing nebs, continue prednisone 60mg PO for now
   - haldol PRN in addition to standing.
   Hypertension: this has been worsening while has been here despite
   addition of medications. Considering essential HTN, cardiac event given
   diaphoresis, withdrawal from opiod unlikely to becausing this.
   Secondary causes should also be considered given that it is refractory
   to medications, renal artery stenosis, urine metanephrines (Home
   regimen includes atenolol 75mg, hydroxhlorothiazide 25mg daily and
   lisinopril daily.). Also brought to teams attention today, a flick in
   the Aline may cause artificial elevated blood pressure.
   - check manual blood pressure when blood pressure extremely elevated.
   - keep captopril to 37.5 TID, isosorbide mononitrate to 30mg [**Hospital1 7**], and
   add hydrochlorothiazide
   - consider renal artery ultrasound to r/o stenosis when better study is
   possible (off vent?)
   - f/u urine for metanephrines
   - if HTN still not resolved with above, consider sending renin and
   angiontensin levels.
   Fever/leukocytosis: Patient spiked fever of 101 [**3-22**], had been afebrile
   since. Most likely causes are VAP or line infection. Femoral line dc/ed
   yesterday. All cultures prior to today have been negative.
   - will culture sputum, urine, f/u chest xray, stool
   - On vancomycin given patient spiked fever while on cefepime, continue
   for now (d1: [**3-22**]) today day 2
   - continue cefepime (day 1: [**3-16**]) today day 7, planned intially for 7
   day course, leave for now considering new fever ----> if afebrile and
   no growth from cultures 48-72 hours consider d/cing drugs
   AF with RVR: New onset this week, now in sinus. s/p diltiazem gtt and
   amiodarone gtt.
   Etiology of AF: fection; fluid shifts, Likely recent fluid overload,
   now negative
   - CHADS2 score low, less than 48h Afib, no need to anticoagulate now
   - conitnue amiodarone to PO
   Fluid status: goal net negative 500cc
   ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale, and
   qHS glargine
   Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   FEN: TF
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-22**] 07:46 AM 45 mL/hour (holding)
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: famotadine
   VAP:  chlorhex, HOB >30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-23 10:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Agitated when woken up this morning.
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2118-3-21**] 04:00 AM
   Vancomycin - [**2118-3-23**] 12:00 AM
   Cefipime - [**2118-3-23**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-22**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-3-22**] 09:00 PM
   Other medications:
   Revieweed from [**Month (only) **].  Only current antibiotic is vancomycin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-23**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 71 (55 - 81) bpm
   BP: 190/100(123) {129/61(80) - 193/100(123)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,363 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    462 mL
   IVF:
                                                                  1,078 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                    372 mL
   Urine:
                                                                  3,555 mL
                                                                    362 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,192 mL
                                                                    878 mL
   Respiratory support
   Ventilator mode: CPAP
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53,476
   SpO2: 95%
   ABG: 7.43/57/77.[**Numeric Identifier 143**]/36/10
   Ve: 7 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   11.2 g/dL
   185 K/uL
   99 mg/dL
   0.8 mg/dL
   36 mEq/L
    3.7 mEq/L
   36 mg/dL
   104 mEq/L
   146 mEq/L
   32.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2118-3-20**]  08:10 PM
                             [**2118-3-20**]  09:27 PM
                             [**2118-3-20**]  11:34 PM
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
                             [**2118-3-22**]  12:00 PM
                             [**2118-3-22**]  04:41 PM
                             [**2118-3-23**]  03:45 AM
                             [**2118-3-23**]  08:01 AM
   WBC
   7.7
   5.6
   7.0
   Hct
   32.1
   32.9
   32.1
   Plt
   165
   163
   185
   Cr
   0.7
   0.8
   0.8
   0.8
   TropT
   <0.01
   TCO2
   32
   30
   40
   39
   Glucose
   99
   191
   134
   350
   160
   99
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: No positive respiratory micro
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure
          Likely bronchitis with exacerbation of obstructive lung
   disease.
          Wheezing appears to have decreased; will try on [**4-25**]
          continue bronchodilators, Prednisone
          oN Cefipime
 d/c in next day or two
   Sedation/Agitation/Schizoaffective disorder
   Add standing haldol and ativan today.  Major goal today will be to wean
   continuous sedation to off within next day or two.
   Fever:
   Developed fever six days into ICU course, with primary ddx VAP and line
   infection. Cultures are unrevealing; lines have been cycled.  On vanco
   for now.
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR
   Hypertension:
   Tighten control a bit.  Arterial line fling may contribute.  [**Month (only) 51**]
   benefit from workup for secondary causes of episodic hypertenion
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2118-3-23**] 06:59 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2118-03-24 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresis: Furosemide 20mg IV x1, then furosemide 40mg IV x2
   - Sedation: Diazepam and haloperidol standing; continuous sedation
   stopped; received haloperidol PRN x1 only o/n
   - HTN: Urine metanephrines still pending.  O/N: HTN to SBP 220 (recheck
   by RN manual machine 140s) --> Hydralazine 10mg IV x1 given later for
   MAP 112
   - Vent: PS 5/5 since [**3-23**] @ 4am to 4pm.  Increased to PEEP 8 [**1-22**]
   decreased O2 (check).  No RSBI this a.m because RR 38-40.  Placed on PS
   [**4-28**] --> starting at 5 am, had tachypnea, tachycardia, became HTN to
   200s --> A/C 500x14, 40%, PEEP 8 with total resolution of clinical sx
   and HTN
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-23**] 09:00 PM
   Cefipime - [**2118-3-24**] 04:30 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2118-3-23**] 04:02 PM
   Furosemide (Lasix) - [**2118-3-24**] 02:30 AM
   Diazepam (Valium) - [**2118-3-24**] 04:30 AM
   Hydralazine - [**2118-3-24**] 05:20 AM
   Haloperidol (Haldol) - [**2118-3-24**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 88 (58 - 92) bpm
   BP: 157/69(91) {128/60(76) - 190/100(123)} mmHg
   RR: 23 (15 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,700 mL
                                                                    489 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    314 mL
   IVF:
                                                                  1,350 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,642 mL
                                                                  1,070 mL
   Urine:
                                                                  2,632 mL
                                                                  1,070 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -581 mL
   Respiratory support
   Ventilator mode: VOL/AC
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 144
   RSBI Deferred: RR >35
   SpO2: 95%
   ABG: 7.44/61/91/38/13
   Ve: 12.9 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   212 K/uL
   13.7 g/dL
   153 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.4 mEq/L
   33 mg/dL
   97 mEq/L
   142 mEq/L
   39.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
                             [**2118-3-22**]  12:00 PM
                             [**2118-3-22**]  04:41 PM
                             [**2118-3-23**]  03:45 AM
                             [**2118-3-23**]  08:01 AM
                             [**2118-3-23**]  01:38 PM
                             [**2118-3-24**]  05:19 AM
                             [**2118-3-24**]  05:45 AM
   WBC
   7.7
   5.6
   7.0
   7.4
   Hct
   32.1
   32.9
   32.1
   39.1
   Plt
   165
   163
   185
   212
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   TCO2
   40
   39
   39
   43
   Glucose
   191
   134
   350
   160
   99
   153
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Hypoxic respiratory failure: AC  500x14 peep 8, 40%. Likely cause of
   initial failure asthma/COPD exacerbation or fluid overload  (elevated
   BNP). All cultures negative
   - Plan today to change sedation to standing rather then continuous drip
   as a bridge to extubation. Start haldol 1mg TID, valium 5mg TID and
   wean fentanyl and midazolam.
   - Hold tube feeds
   - Continuing cefepime for now (day 1: [**3-16**]), s/p 5 day course of
   azithromycin.
   - if cultures do not grow anythign for 48 hours, plan to discontinue
   cefepime and possibly vancomycin
   - new fever, started vanco today 1gm q12h. (day 1 [**2118-3-22**])
   - Fluid overload: goal negative 500cc, 20mg IV lasix this AM
   - Asthma: Standing nebs, continue prednisone 60mg PO for now
   - haldol PRN in addition to standing.
   Hypertension: this has been worsening while has been here despite
   addition of medications. Considering essential HTN, cardiac event given
   diaphoresis, withdrawal from opiod unlikely to becausing this.
   Secondary causes should also be considered given that it is refractory
   to medications, renal artery stenosis, urine metanephrines (Home
   regimen includes atenolol 75mg, hydroxhlorothiazide 25mg daily and
   lisinopril daily.). Also brought to teams attention today, a flick in
   the Aline may cause artificial elevated blood pressure.
   - check manual blood pressure when blood pressure extremely elevated.
   - keep captopril to 37.5 TID, isosorbide mononitrate to 30mg [**Hospital1 7**], and
   add hydrochlorothiazide
   - consider renal artery ultrasound to r/o stenosis when better study is
   possible (off vent?)
   - f/u urine for metanephrines
   - if HTN still not resolved with above, consider sending renin and
   angiontensin levels.
   Fever/leukocytosis: Patient spiked fever of 101 [**3-22**], had been afebrile
   since. Most likely causes are VAP or line infection. Femoral line dc/ed
   [**3-22**]. All cultures today have been negative.
   - will culture sputum, urine, f/u chest xray, stool
   - On vancomycin given patient spiked fever while on cefepime, continue
   for now (d1: [**3-22**]) today day 3
   - continue cefepime (day 1: [**3-16**]) today day 7, planned intially for 7
   day course, leave for now considering new fever ----> if afebrile and
   no growth from cultures 48-72 hours consider d/cing drugs
   AF with RVR: New onset this week, now in sinus. s/p diltiazem gtt and
   amiodarone gtt.
   Etiology of AF: fection; fluid shifts, Likely recent fluid overload,
   now negative
   - CHADS2 score low, less than 48h Afib, no need to anticoagulate now
   - conitnue amiodarone to PO
    Fluid status: goal net negative 500cc
   ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale, and
   qHS glargine
   Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   FEN: TF
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-24 09:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased agitation as continuous sedation weaned.
   Fatigued with SBT this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-3-23**] 09:00 PM
   Cefipime - [**2118-3-24**] 04:30 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2118-3-23**] 04:02 PM
   Furosemide (Lasix) - [**2118-3-24**] 02:30 AM
   Diazepam (Valium) - [**2118-3-24**] 04:30 AM
   Hydralazine - [**2118-3-24**] 05:20 AM
   Haloperidol (Haldol) - [**2118-3-24**] 05:45 AM
   Other medications:
   SQI, prednisone 60, amio, MDIs, cefepime, CHG, HCTZ, Isordil,
   captopril, vnaco, valium 10 q8, haldol q8 + prn, H2B
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-24**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 89 (58 - 92) bpm
   BP: 195/91(116) {128/60(76) - 195/97(116)} mmHg
   RR: 30 (15 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,700 mL
                                                                    506 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    311 mL
   IVF:
                                                                  1,350 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  2,642 mL
                                                                  1,190 mL
   Urine:
                                                                  2,632 mL
                                                                  1,190 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -684 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 144
   RSBI Deferred: RR >35
   SpO2: 95%
   ABG: 7.44/61/91/38/13
   Ve: 12.9 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, diaphoretic on SBT
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes :
   substantially diminished)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, moderately agitated
   [image002.gif]
   Decrement in PEEP seems to be associated with increase in heart rate
   and BP.
   Labs / Radiology
   13.7 g/dL
   212 K/uL
   153 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.4 mEq/L
   33 mg/dL
   97 mEq/L
   142 mEq/L
   39.1 %
   7.4 K/uL
        [image004.jpg]
                             [**2118-3-21**]  05:03 AM
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
                             [**2118-3-22**]  12:00 PM
                             [**2118-3-22**]  04:41 PM
                             [**2118-3-23**]  03:45 AM
                             [**2118-3-23**]  08:01 AM
                             [**2118-3-23**]  01:38 PM
                             [**2118-3-24**]  05:19 AM
                             [**2118-3-24**]  05:45 AM
   WBC
   7.7
   5.6
   7.0
   7.4
   Hct
   32.1
   32.9
   32.1
   39.1
   Plt
   165
   163
   185
   212
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   TCO2
   40
   39
   39
   43
   Glucose
   191
   134
   350
   160
   99
   153
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure
          Likely bronchitis with exacerbation of obstructive lung
   disease.
          I suspect there is a component of cardiac dysfunction
   contibuting here
 when her BP goes up, it may be that her MR increases
   and contributes to failure.
          Today, we will
   1.        Continue current treatment for obstructive lung disease
   2.        Better control blood pressure, afterload and preload
 try
   nitroglycerin drip, increase captopril
   3.        Stop antibiotics today since there
s no clear evidence of
   infection
   4.        Check EKG while on PEEP 0 to ensure assess for ischemia
   5.        Control agititation (as below)
   Sedation/Agitation/Schizoaffective disorder
   Consult psychiatry for help in this complicated patient
   For now, increase Haldol and follow QT twice a day.  We will convert to
   oral Haldol to get longer effect.
   I that benzodiazepine withdrawal is less likely to be playing a role,
   although it is possible.
   Fever:
   Developed fever six days into ICU course, with primary ddx VAP and line
   infection. Cultures are unrevealing; lines have been cycled.
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR
   Hypertension:
   Tighten control a bit.  Arterial line fling may contribute.  [**Month (only) 51**]
   benefit from workup for secondary causes of episodic hypertenion
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2118-03-24 15:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresis: Furosemide 20mg IV x1, then furosemide 40mg IV x2
   - Sedation: Diazepam and haloperidol standing; continuous sedation
   stopped; received haloperidol PRN x1 only o/n
   - HTN: Urine metanephrines still pending.  O/N: HTN to SBP 220 (recheck
   by RN manual machine 140s) --> Hydralazine 10mg IV x1 given later for
   MAP 112
   - Vent: PS 5/5 since [**3-23**] @ 4am to 4pm.  Increased to PEEP 8 [**1-22**]
   decreased O2 (check).  No RSBI this a.m because RR 38-40.  Placed on PS
   [**4-28**] --> starting at 5 am, had tachypnea, tachycardia, became HTN to
   200s --> A/C 500x14, 40%, PEEP 8 with total resolution of clinical sx
   and HTN
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-24**] 04:30 AM
   Vancomycin - [**2118-3-24**] 10:26 AM
   Infusions:
   Nitroglycerin - 3 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2118-3-23**] 04:02 PM
   Furosemide (Lasix) - [**2118-3-24**] 02:30 AM
   Diazepam (Valium) - [**2118-3-24**] 04:30 AM
   Hydralazine - [**2118-3-24**] 05:20 AM
   Haloperidol (Haldol) - [**2118-3-24**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-24**] 03:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (58 - 101) bpm
   BP: 153/87(99) {131/60(76) - 195/97(116)} mmHg
   RR: 20 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,700 mL
                                                                    875 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    311 mL
   IVF:
                                                                  1,350 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  2,642 mL
                                                                  1,620 mL
   Urine:
                                                                  2,632 mL
                                                                  1,620 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -745 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.55/43/54/38/13
   Ve: 12.3 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: Well nourished, agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all pulses palbable
   Respiratory / Chest:  diffusely rhoncherous
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Labs / Radiology
   212 K/uL
   13.7 g/dL
   153 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.4 mEq/L
   33 mg/dL
   97 mEq/L
   142 mEq/L
   39.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2118-3-22**]  01:33 AM
                             [**2118-3-22**]  05:04 AM
                             [**2118-3-22**]  12:00 PM
                             [**2118-3-22**]  04:41 PM
                             [**2118-3-23**]  03:45 AM
                             [**2118-3-23**]  08:01 AM
                             [**2118-3-23**]  01:38 PM
                             [**2118-3-24**]  05:19 AM
                             [**2118-3-24**]  05:45 AM
                             [**2118-3-24**]  11:15 AM
   WBC
   5.6
   7.0
   7.4
   Hct
   32.9
   32.1
   39.1
   Plt
   163
   185
   212
   Cr
   0.8
   0.8
   0.8
   0.9
   TCO2
   40
   39
   39
   43
   39
   Glucose
   134
   350
   160
   99
   153
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Hypoxic respiratory failure: tolerating PS 5/5 at 40%. Likely cause of
   initial failure asthma/COPD exacerbation or fluid overload  (elevated
   BNP). All cultures negative. She has become increasingly agitated and
   hypertensive, which is preventing extubation. With decreases in her
   PEEP, she becomes tachycardic and hypertensive, and it is likely that
   the increased preload and afterload is exacerbating her MR causing
   pulmonary edema
   - vent goals: we will first control her agitation and htn before trying
   again to extubate
   - increase sedation to haldol 5mg TID with 2.5-5mg IV PRN, checking
   EKGs [**Hospital1 7**]. Also Valium 10mg PO TID standing.
   - Hold tube feeds
   - check rsbi when more awake
   - discontinue cefepime s/p 8 days, also discontinue vancomycin s/p 3
   days has cultures with no growth and has been afebrile. also s/p 5 day
   course of azithromycin.
   - Fluid overload: goal negative 500cc
   - Asthma: Standing nebs, continue prednisone 60mg PO for now
   - haldol PRN in addition to standing.
   Hypertension: this has been worsening while has been here despite
   addition of medications. Considering essential HTN, cardiac event given
   diaphoresis, withdrawal from opiod unlikely to becausing this.
   Secondary causes should also be considered given that it is refractory
   to medications, renal artery stenosis, urine metanephrines (Home
   regimen includes atenolol 75mg, hydroxhlorothiazide 25mg daily and
   lisinopril daily.). Also brought to teams attention today, a flick in
   the Aline may cause artificial elevated blood pressure. Patient
   agitated and hypertensive today, as described above. decreased PEEP
   tends to increase bp and hr
   - start nitro drip to decrease preload, continue hydrochlorothiazide
   25mg daily
   - increase captopril to 50mg TID to decrease afterload.
   - check manual blood pressure when blood pressure extremely elevated.
   - hold isosorbide mononitrate to 30mg [**Hospital1 7**] while on nitro drip
   - consider renal artery ultrasound to r/o stenosis when better study is
   possible (off vent?)
   - f/u urine for metanephrines
   - if HTN still not resolved with above, consider sending renin and
   angiontensin levels.
   Fever/leukocytosis: Patient spiked fever of 101 [**3-22**], had been afebrile
   since. Most likely causes are VAP or line infection. Femoral line dc/ed
   [**3-22**]. All cultures prior to today have been negative.
   - no growth in sputum, urine, blood. no source
   - d/c vanco today s/p 3 days, d/c cefepime today s/p 9 days.
   AF with RVR: New onset this week, now in sinus. s/p diltiazem gtt and
   amiodarone gtt.
   Etiology of AF: fection; fluid shifts, Likely recent fluid overload,
   now negative
   - CHADS2 score low, less than 48h Afib, no need to anticoagulate now
   - conitnue amiodarone to PO
   Fluid status: goal net negative 500cc
   ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale, and
   qHS glargine
   Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   FEN: TF
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition: tube feeds held currently as may be extubated.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   20 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-25 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   couldnt extubate.was agitated and hypertensive.
   nitro gtts for BP
   repeat tte post nitro-> decreased level of MR
   Psych: d/c standing valium, can worsen delerium.  hold pm haldol, good
   for am haldol + valium w extubation.
   Now on propofol
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-24**] 04:30 AM
   Vancomycin - [**2118-3-24**] 10:26 AM
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2118-3-25**] 12:30 AM
   Haloperidol (Haldol) - [**2118-3-25**] 05:15 AM
   Diazepam (Valium) - [**2118-3-25**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-25**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 76 (67 - 101) bpm
   BP: 153/76(94) {110/57(70) - 224/101(247)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,271 mL
                                                                    505 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    286 mL
   IVF:
                                                                    900 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    650 mL
   Urine:
                                                                  1,910 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    361 mL
                                                                   -145 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.53/46/106/36/14
   Ve: 10.3 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all palpable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   12.6 g/dL
   134 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.1 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   35.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2118-3-23**]  03:45 AM
                             [**2118-3-23**]  08:01 AM
                             [**2118-3-23**]  01:38 PM
                             [**2118-3-24**]  05:19 AM
                             [**2118-3-24**]  05:45 AM
                             [**2118-3-24**]  11:15 AM
                             [**2118-3-24**]  05:28 PM
                             [**2118-3-25**]  05:00 AM
                             [**2118-3-25**]  05:39 AM
                             [**2118-3-25**]  06:55 AM
   WBC
   7.0
   7.4
   9.5
   Hct
   32.1
   39.1
   35.9
   Plt
   185
   212
   227
   Cr
   0.8
   0.9
   0.9
   TCO2
   39
   39
   43
   39
   39
   39
   40
   Glucose
   99
   153
   134
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Imaging: no cxr today
   Microbiology: no new micro
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Hypoxic respiratory failure: tolerating PS 5/5 at 40%. Likely cause of
   initial failure asthma/COPD exacerbation or fluid overload  (elevated
   BNP). All cultures negative. She has become increasingly agitated and
   hypertensive, prevented extubation. Extubating today.
   - vent goals: MR is less with nitro, will keep nitro when we extubate.
   will d/c propfol, check rsbi, if adequate, will give ativan, haldol,
   and extubate. Pt extubated, on face mask,
   - increase sedation to haldol 5mg TID with 2.5-5mg IV PRN, checking
   EKGs [**Hospital1 7**].
   - Hold tube feeds
   - off antibiotics
   - Fluid overload: goal negative 500cc
   - Asthma: Standing nebs, continue prednisone 60mg PO for now
   - haldol PRN in addition to standing.
   Hypertension: this has been worsening while has been here despite
   addition of medications. Considering essential HTN, cardiac event given
   diaphoresis, withdrawal from opiod unlikely to becausing this.
   Secondary causes should also be considered given that it is refractory
   to medications, renal artery stenosis, urine metanephrines (Home
   regimen includes atenolol 75mg, hydroxhlorothiazide 25mg daily and
   lisinopril daily.). Also brought to teams attention today, a flick in
   the Aline may cause artificial elevated blood pressure. Patient
   agitated and hypertensive today, as described above. decreased PEEP
   tends to increase bp and hr
   - continue nitro drip to decrease preload until after extubated,
   continue hydrochlorothiazide 25mg daily
   - continue captopril to 50mg TID to decrease afterload.
   - check manual blood pressure when blood pressure extremely elevated.
   - hold isosorbide mononitrate to 30mg [**Hospital1 7**] while on nitro drip, will
   restart isosorbide after nitro dced as needed
   - consider renal artery ultrasound to r/o stenosis when better study is
   possible (off vent?)
   - f/u urine for metanephrines
   - if HTN still not resolved with above, consider sending renin and
   angiontensin levels.
   Fever/leukocytosis: Patient spiked fever of 101 [**3-22**], had been afebrile
   since. Femoral line dc/ed [**3-22**]. All cultures prior to today have been
   negative.
   - no growth in sputum, urine, blood. no source
   - d/c vanco today s/p 3 days, d/c cefepime today s/p 9 days.
   AF with RVR: New onset this week, now in sinus. s/p diltiazem gtt and
   amiodarone gtt.
   Etiology of AF: fection; fluid shifts, Likely recent fluid overload,
   now negative
   - CHADS2 score low, less than 48h Afib, no need to anticoagulate now
   - conitnue amiodarone to PO
   Metabolic alkalosis: likely secondary to [**Last Name (LF) 407**], [**First Name3 (LF) **] hold
   diuresis today, let autoregulate since being extubated today
   ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   [**Month (only) 51**] be contribuate to shunting and some degree of hypoxia
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale, and
   qHS glargine
   Schizoaffective disorder:  STABLE.  Holding long-term psych meds,
   haloperidol PRN for agitation.  Psych following.
   FEN: TF
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   On hold for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   20 Gauge - [**2118-3-24**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-25 08:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Manipulation of sedation and antipsychotics
   Antibiotics stopped
   SBT started this morning --> 7.51 / 48 / 71
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-24**] 04:30 AM
   Vancomycin - [**2118-3-24**] 10:26 AM
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2118-3-25**] 12:30 AM
   Haloperidol (Haldol) - [**2118-3-25**] 05:15 AM
   Diazepam (Valium) - [**2118-3-25**] 06:05 AM
   Other medications:
   SQI, prednsione 60, amio, nebs, SQH, H2B, HCTZ, captopril 50 tid,
   haldol, propofol, TNG
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-25**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 79 (67 - 101) bpm
   BP: 151/74(89) {100/59(69) - 187/95(115)} mmHg
   RR: 16 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,271 mL
                                                                    548 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    286 mL
   IVF:
                                                                    900 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    690 mL
   Urine:
                                                                  1,910 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    361 mL
                                                                   -142 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 313 (313 - 313) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.51/48/71/36/12
   Ve: 7.8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : decreased compared with
   prior)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   227 K/uL
   134 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.1 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   35.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2118-3-23**]  08:01 AM
                             [**2118-3-23**]  01:38 PM
                             [**2118-3-24**]  05:19 AM
                             [**2118-3-24**]  05:45 AM
                             [**2118-3-24**]  11:15 AM
                             [**2118-3-24**]  05:28 PM
                             [**2118-3-25**]  05:00 AM
                             [**2118-3-25**]  05:39 AM
                             [**2118-3-25**]  06:55 AM
                             [**2118-3-25**]  08:27 AM
   WBC
   7.4
   9.5
   Hct
   39.1
   35.9
   Plt
   212
   227
   Cr
   0.9
   0.9
   TCO2
   39
   39
   43
   39
   39
   39
   40
   40
   Glucose
   153
   134
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure.
   Acute Respiratory Failure
          Likely bronchitis with exacerbation of obstructive lung
   disease.
          There seems to be a component of cardiac dysfunction
   contibuting here
 when her BP goes up, it may be that her MR increases
   and contributes to failure.
          We have better controlled her heart rate and blood pressure,
   and improved her sedation/antipsychotic regimen over the past day.  She
   is tolerating an SBT and, although she has a moderate risk for needing
   reintubation, I feel that today is an appropriate time for a trial of
   extubation.  [**Month (only) 51**] need NIMV after extubation.
          Continue bronchodilators.
          Likely start tapering steroids further tomorrow.
          Remains off antibiotics, since there is no evidence of
   infection
   Sedation/Agitation/Schizoaffective disorder
   Appreciate psychiatry
s  help in this complicated patient
   Continue to follow QT twice a day.
   Continue Haldol as per psychiatry
   Fever:
   Developed fever six days into ICU course, with primary ddx VAP and line
   infection. Cultures are unrevealing; lines have been cycled.  Now
   afebrile off of antibiotics
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR
   Hypertension:
   Improved control.  [**Month (only) 51**] benefit from workup for secondary causes of
   episodic hypertenion
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
   Atrial septal defect
   - no acute intervention.  Has some signs of right to left shunt.
   ICU Care
   Nutrition: hold tube feeds for extubation trial
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   20 Gauge - [**2118-3-24**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2118-03-26 07:00:00 Physician Resident Progress Note
Chief Complaint: 56F h/o schizoaffective disorder, DM2, HTN, asthma,
   intubated with respiratory distress (O2sat 60% on RA) either [**1-22**] asthma
   exacerbation or pulmonary infection (on cefepime, azithromycin).
   24 Hour Events:
   She was extubated in the AM, fairly calm
   nitro drip dc/ed --> isordil 20mg TID, with pressure in the 140s
   - gave percocet 1 dose MR1
   - patient on 35% facemask. can certainly tolerate nasal cannula, but
   refuses as it smells funny. Changing to shovel mask
   Psych:  1. Change to Haldol 5 IV TID standing and cont 2-5mg IV q2 prn
   extreme agitation (pulling at lines, etc).
   2. While on Haldol pls cont to follow QTc, lytes and replete as
   necessary.
   3. Low risk of benzo w/d but would cont to watch for this [**1-22**] use
   of Versed. Previous Valium doses may have prevented this as it
   self-tapers.
   4. Cont supportive care for delirium, ie: frequent reorientation
   adjusting lights in room to mimic normal day/night cycle, friend
   visiting may be helpful, and pt stated plainly that she wants
   [**Doctor First Name 368**] to come.
   5. Page psych at [**Numeric Identifier 412**] o/n or w/e with urgent issues/questions.
   -Case d/w team
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-24**] 04:30 AM
   Vancomycin - [**2118-3-24**] 10:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-25**] 09:46 PM
   Haloperidol (Haldol) - [**2118-3-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 68 (50 - 83) bpm
   BP: 143/58(81) {124/58(76) - 166/99(115)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,065 mL
                  PO:
                                                                    100 mL
                  TF:
                                                                    286 mL
   IVF:
                                                                    570 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    240 mL
   Urine:
                                                                  1,340 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (313 - 313) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 35%
   SpO2: 90%
   ABG: 7.51/48/71/36/12
   Ve: 7.8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology: Pending as of prerounds this a.m.
        [image002.jpg]
   [**2118-3-24**]  05:28 PM
                             [**2118-3-25**]  05:00 AM
                             [**2118-3-25**]  05:39 AM
                             [**2118-3-25**]  06:55 AM
                             [**2118-3-25**]  08:27 AM
                             [**2118-3-25**]  12:00 PM
                             [**2118-3-25**]  06:00 PM
                             [**2118-3-26**]  12:00 AM
                             [**2118-3-26**]  05:00 AM
                             [**2118-3-26**]  05:18 AM
   WBC
   9.5
   Hct
   35.9
   Plt
   227
   Cr
   0.9
   0.9
   TCO2
   39
   39
   40
   40
   Glucose
   134
   220
   159
   92
   98
   93
   Imaging: No new imaging
   Microbiology: [**3-22**] Sputum cx: 1+ budding yeast
   [**3-22**] Blood cx negative
   Assessment and Plan
   56F h/o schizoaffective disorder, DM2, HTN, asthma, intubated with
   respiratory distress (O2sat 60% on RA) either [**1-22**] asthma exacerbation
   or pulmonary infection (on cefepime, azithromycin).
   Respiratory status: Breathing well.
   - Fluid status: Keep even
   - Asthma: Standing nebs, prednisone taper
   Schizoaffective disorder:
   Hypertension: Home regimen atenolol 75mg, hydroxhlorothiazide 25mg
   daily and lisinopril daily
   Essential HTN. Secondary causes should also be considered given that it
   is refractory to medications, renal artery stenosis, urine
   metanephrines (.).
   - Captopril to 50mg TID to decrease afterload.
   - check manual blood pressure when blood pressure extremely elevated.
   - f/u urine for metanephrines
   - if HTN still not resolved with above, consider sending renin and
   angiontensin levels.
   AFib/RVR: New onset this week, now in sinus. s/p diltiazem gtt and
   amiodarone gtt.  Etiology of AF: fection; fluid shifts, Likely recent
   fluid overload, now negative
   - CHADS2 score low, less than 48h Afib, no need to anticoagulate now
   - Amiodarone to PO
   ASD: STABLE.  Will need to filter IV infusions to prevent air emboli.
   [**Month (only) 51**] be contribuate to shunting and some degree of hypoxia
   DM2: STABLE.  Holding metformin, continuing insulin sliding scale, and
   qHS glargine
   FEN: Convert to PO intake
   Social work: Consult to work with caller who states he is her
   husband/boyfriend/roommate.
   ICU Care
   Nutrition:
   Comments: Convert to PO intake
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   20 Gauge - [**2118-3-24**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-03-26 10:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-3-25**] 09:30 AM
   Did well extubated
   Agitated intermittently
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2118-3-24**] 04:30 AM
   Vancomycin - [**2118-3-24**] 10:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-3-25**] 09:46 PM
   Haloperidol (Haldol) - [**2118-3-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-26**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 48 (48 - 83) bpm
   BP: 131/70(86) {124/58(76) - 166/99(115)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,065 mL
                  PO:
                                                                    100 mL
                  TF:
                                                                    286 mL
   IVF:
                                                                    570 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    310 mL
   Urine:
                                                                  1,340 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: Anxious
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   208 K/uL
   93 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.0 mEq/L
   40 mg/dL
   100 mEq/L
   142 mEq/L
   35.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2118-3-24**]  05:28 PM
                             [**2118-3-25**]  05:00 AM
                             [**2118-3-25**]  05:39 AM
                             [**2118-3-25**]  06:55 AM
                             [**2118-3-25**]  08:27 AM
                             [**2118-3-25**]  12:00 PM
                             [**2118-3-25**]  06:00 PM
                             [**2118-3-26**]  12:00 AM
                             [**2118-3-26**]  05:00 AM
                             [**2118-3-26**]  05:18 AM
   WBC
   9.5
   9.4
   Hct
   35.9
   35.8
   Plt
   227
   208
   Cr
   0.9
   0.9
   TCO2
   39
   39
   40
   40
   Glucose
   134
   220
   159
   92
   98
   93
   Other labs: PT / PTT / INR:12.9/24.4/1.1, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:34/28, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:81.9 %, Lymph:13.4 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Imaging: No CXR
   Microbiology: Sputum: yeast (culture)
   Assessment and Plan
   Assessment and Plan
   56-year-old woman with history of schizoaffective disorder now admitted
   with respiratory failure s/p extubation [**3-25**]
   Acute Respiratory Failure
          Likely bronchitis with exacerbation of obstructive lung
   disease.
          There seems to be a component of cardiac dysfunction
   contibuting here
 when her BP goes up, it may be that her MR increases
   and contributes to failure.
   .          Now extubated.
          Continue bronchodilators.
          Likely start tapering steroids further tomorrow. will go to
   50 mg today with plan taper over a few weeks (although would have low
   threshold to increase in setting of wheeze). will also start Advair
   (250/50) today and tiotropium. Needs Out pt [**Name (NI) 414**].
          Remains off antibiotics, since there is no evidence of
   infection
   Sedation/Agitation/Schizoaffective disorder
   Appreciate psychiatry
s  help in this complicated patient
   Continue to follow QT twice a day.
   Continue Haldol as per psychiatry
   Prednisone likely exacerbating her mania
   Fever:
   Developed fever six days into ICU course, with primary ddx VAP and line
   infection. Cultures are unrevealing; lines have been cycled.  Now
   afebrile off of antibiotics
   Afib with RVR: atrial stretch due to volume overload seems likely.
   Converted back to NSR. Will stop the amio (think this was related to
   sympathetic stressors)
   Hypertension:
   Improved control.  [**Month (only) 51**] benefit from workup for secondary causes of
   episodic hypertenion. On isordil and captopril for afterload reduction
   (need to carefull control given her MR)
   Can convert to long acting on floor.
   - Urine metanephrines. Renal U/S to eval for RAS
   Type 2 Diabetes Mellitus
   - insulin sliding scale
   Schizoaffective Disorder
   - appreciate psychiatry
s help
   - use Haldol  needed; hold home meds for now
    - may need 1:1 for the floor.
   Atrial septal defect
   - no acute intervention.  Has some signs of right to left shunt.
   ICU Care
   Nutrition:
   Comments: Will start PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-3-21**] 07:00 PM
   Arterial Line - [**2118-3-22**] 02:30 AM
   20 Gauge - [**2118-3-24**] 06:00 PM
   Comments: d/c art line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: d/c Art line
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes